US04616007
A solution of 25 g (61.7 mmol) of 2-[(3S,4R)-3-(tert.-butyl-dimethyl-silyloxymethyl)-4-methylsulphonyl-2-oxoazetidin-1-yl]-3-methyl-2-butenoic acid methyl ester in 400 ml of methylene chloride is treated at -10° with an ozone/oxygen mixture. The disappearance of the starting material is monitored by thin layer chromatography. When the reaction is complete, 30 ml of dimethyl sulphide are added and the whole is stirred for a further 3 hours at room temperature. The solution is concentrated and the residue is taken up in a mixture of 160 ml of methanol, 24 ml of ethyl acetate and 3 ml of water and heated for 40 minutes at 70°. The solvent is then removed and the residue is evaporated twice in the presence of toluene. The crystallising oil is taken up in methylene chloride and the crystals, consisting of (3S,4R)-3-hydroxymethyl-4-methylsulphonylazetidin-2-one, are isolated by filtration. The filtrate is concentrated and (3S,4R)-3-(tert.-butyl-dimethyl-silyloxymethyl)-4-methylsulphonylazetidin-2-one is obtained in pure form by chromatography over silica gel with toluene/ethyl acetate (3:1).

reactant | 2-[(3S,4R)-3-(tert.-butyl-dimethyl-silyloxymethyl)-4-methylsulphonyl-2-oxoazetidin-1-yl]-3-methyl-2-butenoic acid methyl ester | 61.7 mmol, 25 g | COC(C(=C(C)C)N1C([C@@H]([C@H]1S(=O)(=O)C)C(O[SiH2]C(C)(C)C)(C)C)=O)=O | C17H31NO6SSi
reactant | ozone oxygen | O=[O+][O-].O=O
reactant | dimethyl sulphide | 30 ml | CSC | C2H6S
solvent | methylene chloride | 400 ml | C(Cl)Cl | CH2Cl2
product | (3S,4R)-3-(tert.-butyl-dimethyl-silyloxymethyl)-4-methylsulphonylazetidin-2-one | C(C)(C)(C)[SiH2]OC([C@H]1C(N[C@@H]1S(=O)(=O)C)=O)(C)C | C11H23NO4SSi
